### ISSUE TITLE
`measurability` shortcomings

### ISSUE THREAD

**Issue by LorenzoLuccioli** [RemyDegenne/testing-lower-bounds#30]
Instances where the tactic `measurability` should work, but it doesn't.

This is one example, if I find more I will add them to this issue:
 
```
example {ι : Type*} [Fintype ι] {β : ι → Type*} [∀ i, MeasurableSpace (β i)]
    (s : (i : ι) → Set (β i)) (h : ∀ i, MeasurableSet (s i)) :
    MeasurableSet (Set.pi Set.univ s) := by
  -- measurability
  exact MeasurableSet.univ_pi h
```

In this case `measurability` doesn't manage to prove that the product of the `Set.univ` is measurable. It doesn't work eve if we add the `@[measurability]` attribute to `MeasurableSet.univ_pi`.

**Comment by LorenzoLuccioli** [comment]
In this case it doesn't manage to prove that the set where a measurable function is different from zero is measurable.

```
example (g : ℝ → ℝ) (h : Measurable g) : MeasurableSet {x | g x ≠ 0} := by
  rw [show {x | g x ≠ 0} = g ⁻¹' {x | x ≠ 0} by simp]
  apply h
  simp only [ne_eq, Set.compl_ne_eq_singleton, MeasurableSet.compl_iff, MeasurableSet.singleton,
    MeasurableSet.compl_iff.mp]
```

**Comment by RemyDegenne** [comment]
This does not alter the fact that the measurability tactic is failing, but you might want to know that that second example has a very short proof:
```
example (g : ℝ → ℝ) (h : Measurable g) : MeasurableSet {x | g x ≠ 0} :=
  h (measurableSet_singleton _).compl
```
